Name:  ___           Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Fall resulting in: 
-Left ___ & 6th rib fractures 
-Left clavicle fracture
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
This patient is a ___ year old female who complains of s/p Fall. 
The patient is transferred from the ___ emergency 
room. The patient is status post mechanical fall last night 
after having "some cocktails". This morning she
went into the emergency department at the outside hospital and 
had a torso CT scan that showed rib fracture #5 and 6 with 
question of L1 and L4 old spinal fractures. She was persistently 
tachycardic in the 120-130 range at the outside
hospital. There was no loss of consciousness last night. There 
is no neck pain. Blood pressure is 140 systolic. Pulse 
oxygenation was 97%. There were no neurologic symptoms.
 
Past Medical History:
Atrial Fibrillation
GERD
HTN
Hypothyroidism
Left breast biopsy
 
Social History:
___
Family History:
Noncontributory
 
Physical Exam:
O: T:97.8: HR: 72 BP: 136/84 RR 18 95% RA
Gen: Alert, oriented, interactive, comfortable, NAD.
HEENT: Pupils: Round, reactive to light. Normocephalic, 
atraumatic, no visible or palpable masses, depressions, or 
scaring.
Neck: Supple, without lesions, bruits, or adenopathy, thyroid 
non-enlarged
Extremities: Warm and well-perfused.
Neuro: CN ___ normal. Sensation to pain, touch, and 
proprioception normal. Equal strength ___ in all 4 extremities.
Mental status: Awake and alert, cooperative with exam, normal 
affect.
Orientation: Oriented to person, place, and date.
 
Brief Hospital Course:
Ms. ___ is a ___ year old Female who presents from an OSH 
after a mechanical fall. On torso CT the patient has evidence of 
left clavicle as well as left ___ and 6th rib fractures. The 
patient has a history of atrial fibrillation and was tachycardic 
at the time of arrival. She was treated with IV diltiazem. The 
heart rate came down and the patient was admitted to the floor 
for pain control and pulmonary toilet on ___. A sling was 
left in place on her right arm to wear at all times.

Ms. ___ was placed in pain medication with 
morphine sulfate IV, dilaudid IV breaktrough, and oxycodone 
immediate release 2.5 mg q6PRN. A bowel regimen was started with 
Colace and Senna. She was also placed in 2L NC. Pain was an 
issue during the first hospital day. On ___ her oxycodone 
dose was increased and her pain started to subside. She 
continued to be on ___ L NC. On ___ her left chest wall pain 
was well controlled but she continued to be on ___ L NC and 
remained in the hospital one more night for observation. On 
___ she was weaned from the O2 supplementation and tolerated 
well, currently saturating 95% on RA. Her pain is well 
controlled and is now being discharged to rehabilitation to 
continue her recovery.
 
Discharge Medications:
1.  Acetaminophen 1000 mg PO TID  
2.  Docusate Sodium 100 mg PO BID  
3.  Ibuprofen 400 mg PO Q8H:PRN Pain - Mild  
4.  Lidocaine 5% Patch 1 PTCH TD QAM 
RX *lidocaine 5 % Apply 1 patch in tender area QAM Disp #*7 
Patch Refills:*0 
5.  Ondansetron ___ mg PO Q8H:PRN nausea 
RX *ondansetron 4 mg 1 (One) tablet(s) by mouth every eight (8) 
hours Disp #*15 Tablet Refills:*0 
6.  OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - 
Moderate 
RX *oxycodone [Oxaydo] 5 mg 1 (One) tablet(s) by mouth every 
four (4) hours Disp #*35 Tablet Refills:*0 
7.  Atenolol 25 mg PO DAILY  
8.  Hydrochlorothiazide 12.5 mg PO DAILY  
9.  Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Left ___ & 6th rib fractures

Left clavicle fracture

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
* Your injury caused Left ___ and 6th rib fractures and left 
clavicle fracture which can cause severe pain and subsequently 
cause you to take shallow breaths because of the pain.
 
* You should take your pain medication as directed to stay ahead 
of the pain otherwise you won't be able to take deep breaths. If 
the pain medication is too sedating take half the dose and 
notify your physician.
 
* Pneumonia is a complication of rib fractures.  In order to 
decrease your risk you must use your incentive spirometer 4 
times every hour while awake.  This will help expand the small 
airways in your lungs and assist in coughing up secretions that 
pool in the lungs.
 
* You will be more comfortable if you use a cough pillow to hold 
against your chest and guard your rib cage while coughing and 
deep breathing.
 
* Symptomatic relief with ice packs or heating pads for short 
periods may ease the pain.
 
* Narcotic pain medication can cause constipation therefore you 
should take a stool softener twice daily and increase your fluid 
and fiber intake if possible.
 
* Do NOT smoke
 
* If your doctor allows, non-steroidal ___ drugs 
are very effective in controlling pain ( ie, Ibuprofen, Motrin, 
Advil, Aleve, Naprosyn) but they have their own set of side 
effects so make sure your doctor approves.
 
* Return to the Emergency Room right away for any acute 
shortness of breath, increased pain or crackling sensation 
around your ribs (crepitus).
 
Followup Instructions:
___